US07109354B2
A solution of {3-[2-(3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-ureido)-ethyl]-ureido}-acetic acid methyl ester ((Example 197: step a) 0.031 g, 0.042 mmol) in MeOH:water (2:1, 15 mL) was treated with NaOH (10 N, 0.042 mL, 0.420 mmol) and stirred at room temperature 18 h. MeOH was evaporated in vacuo and the remaining aqueous solution was acidified to pH 5 with glacial acetic acid. The solution was extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over MgSO4 and evaporated in vacuo to afford the product {3-[2-(3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-ureido)-ethyl]-ureido}-acetic acid (0.025 g, 83%) as an off-white solid. The crude material was used directly in the next reaction.

reactant | {3-[2-(3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-ureido)-ethyl]-ureido}-acetic acid methyl ester | COC(CNC(=O)NCCNC(=O)NC1=C(C(=CC=C1)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)=O | C31H38N6O8S3
reactant | NaOH | 0.420 mmol, 10 N, 0.042 mL | [OH-].[Na+]
solvent | MeOH water | 15 mL | CO.O
product | {3-[2-(3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-yl}-ureido)-ethyl]-ureido}-acetic acid | 0.025 g, 83% | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(NCCNC(NCC(=O)O)=O)=O)=N | C30H36N6O8S3
